* PJF (P-channel JFET) Common-Source Amplifier AC Response
* A 2N5460 p-channel JFET in a common-source configuration with
* self-bias via the source resistor. AC sweep captures the midband
* voltage gain and the capacitive roll-offs at both ends of the band.
* Devices exercised: V, R, C, J (PJF bundled 2N5460).

.title PJF Common-Source AC Response
.include "../../resources/models/ngspice/testcircuit_discrete.lib"

* --- Negative supply and AC test source ---
Vss vss 0 DC -12
Vin in  0 AC 1

* --- Gate bias via large resistor to ground (high-Z) ---
Rg 0 gate 1Meg

* --- Self-bias source resistor (bypassed by Cs) ---
Rs src 0 2.2k
Cs src 0 22u

* --- Drain load resistor to the negative supply ---
Rd vss drain 4.7k

* --- AC coupling ---
Cin  in    gate  1u
Cout drain out   1u
Rload out 0 100k

* --- JFET under test (drain / gate / source) ---
J1 drain gate src 2N5460

* --- Analysis ---
.ac dec 20 1 100Meg

.MEASURE AC av_midband FIND vdb(out) AT=10k

.end
